US04177257
Reference Preparation 3 2-Methoxycarbonylphenoxathiin-10,10-dioxide
2-Carboxyphenoxathiin-10,10-dioxide, (0.50 g.) in carbon tetrachloride (25 ml.) and thionyl chloride (2.0 ml.) was boiled under reflux for 2 hr. The solvent was evaporated and methanol (20 ml.) added. The mixture was boiled under reflux for 20 min., and cooled, whereupon 2-methoxycarbonylphenoxathiin-10,10-dioxide crystallised out and was filtered off and dried, m.pt. 160° C.

reactant | 2-Carboxyphenoxathiin-10,10-dioxide | C(=O)(O)C1=CC=2S(C3=CC=CC=C3OC2C=C1)(=O)=O | C13H8O5S
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Methoxycarbonylphenoxathiin-10,10-dioxide | COC(=O)C1=CC=2S(C3=CC=CC=C3OC2C=C1)(=O)=O | C14H10O5S
